* OVERALL BEST CANDIDATE: 00_Phase_1_5V_USB_to_3_3V_MCU_Buck_g1_cand1_b9
* FITNESS SCORE: 0.9681
*
* Generated: 2026-05-31T21:16:30
* Constraint: Phase 1: 5V USB to 3.3V MCU (Buck)
*   vin_min = 4.5
*   vin_max = 5.5
*   vout_target = 3.3
*   efficiency_target = 0.78
*   power_in = 5
* Candidate: 1 of 8
* Grouped name: g1_cand1
*
* 5V to 3.3V Buck Converter
Vin in 0 5
M1 in gate sw 0 NMOS W=1 L=1
D1 0 sw DIODE
L1 sw out 10u
C1 out 0 47u
Rload out 0 0.68
Vgate gate 0 PULSE(0 12 0 1n 1n 5.8u 10u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.tran 10n 1m
.save V(*) I(*)
.end
