* === GLOBAL BEST TOPOLOGY ===
* Candidate: cand_1
* Fitness: 0.9908
*
* --- Active Constraints ---
* _comment: Phase 1: 5V USB to 3.3V MCU (Buck)
* vin_min: 4.5
* vin_max: 5.5
* vout_target: 3.3
* efficiency_target: 0.78
* power_in: 5
*
* --- Raw Metrics & Components ---
* simulation_output_voltage: 2.437734
* efficiency: 0.840089
* total_volume_cm3: 21.206490
* total_components: 4
* ============================

* 5V to 3.3V Buck Converter
Vin in 0 5
M1 in gate sw sw NMOS W=1 L=1
D1 0 sw DIODE
L1 sw out 10u
C1 out 0 47u
Rload out 0 0.68
Vgate gate sw PULSE(0 12 0 1n 1n 5.8u 10u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.tran 10n 1m
.save V(*) I(*)
.end